US04871842
In 2 ml of acetic acid is dissolved 0.8 g of tert-butyl 3(RS)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1(SR)-ethoxycarbonylpentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate, and 2 ml of 30% aqueous hydrogen bromide-acetic acid solution is added to the solution, followed by standing at room temperature for 2 hours. The reaction solution is diluted with 200 ml of ethyl ether, and after the mixture is allowed to stand, the supernatant layer is removed by decantation. The precipitate is rinsed with 100 ml of ethyl ether and dried to give 3(RS)-[5-(4-piperidyl)-1(SR)-ethoxycarbonylpentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetic acid·hydrobromide. This product is dissolved in 20 ml of 1N aqueous sodium hydroxide and the solution is allowed to stand at room temperature for 1 hour, acidified with 2 ml of acetic acid and purified by XAD-2 column chromatography (methanol:water=1:1). The effluent is concentrated under reduced pressure, and the crystals, which separate out, are rinsed with 50 ml of acetone and collected by filtration to give 0.33 g of 3(RS)-[5-(4-piperidyl)-1(SR)-carboxypentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-benzazepine-1-acetic acid as colorless prisms. m.p. 250°-260° C. (decomp.).

reactant | tert-butyl 3(RS)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1(SR)-ethoxycarbonylpentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetate | 0.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)NC1C(N(C2=C(CC1)C=CC=C2)CC(=O)OC(C)(C)C)=O | C37H51N3O7
reactant | hydrogen bromide acetic acid | 2 ml | Br.C(C)(=O)O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3(RS)-[5-(4-piperidyl)-1(SR)-ethoxycarbonylpentyl]amino-2-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine-1-acetic acid·hydrobromide | N1CCC(CC1)CCCCC(C(=O)OCC)NC1C(N(C2=C(CC1)C=CC=C2)CC(=O)O)=O.Br | InChI=1S/C25H37N3O5.BrH/c1-2-33-25(32)21(9-5-3-7-18-13-15-26-16-14-18)27-20-12-11-19-8-4-6-10-22(19)28(24(20)31)17-23(29)30;/h4,6,8,10,18,20-21,26-27H,2-3,5,7,9,11-17H2,1H3,(H,29,30);1H
